US05998436
Synthesis of ethyl 8-chloro-1-[5-chloro-3-fluoro-6-(p-methoxybenzylamino)pyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 2 ml chloroform solution of ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate prepared from 0.56 g of ethyl 3-chloro-2,4,5-trifluorobenzoylacetate by normal process was added 0.66 g of 2-amino-5-chloro-3-fluoro-6-(p-methoxybenzylamino)pyridine. The solution was concentrated under reduced pressure. To the residue were added 0.5 g of anhydrous potassium carbonate and 1.5 ml of N,N-dimethylformamide, and the mixture was stirred at 90° C. for 20 minutes and allowed to cool. The solution was separated by adding 30 ml of chloroform and 300 ml of distilled water, and the chloroform layer was washed with 300 ml of distilled water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The solution was allowed to stand after adding 4 ml of ethanol. The precipitate was collected by filtration, washed with ethanol and diisopropylether successively to obtain 0.56 g of the title compound as a pale yellow powder.

reactant | ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Cl)F)=O | C14H12ClF3O4
reactant | ethyl 3-chloro-2,4,5-trifluorobenzoylacetate | 0.56 g | ClC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8ClF3O3
reactant | 2-amino-5-chloro-3-fluoro-6-(p-methoxybenzylamino)pyridine | 0.66 g | NC1=NC(=C(C=C1F)Cl)NCC1=CC=C(C=C1)OC | C13H13ClFN3O
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 8-chloro-1-[5-chloro-3-fluoro-6-(p-methoxybenzylamino)pyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 0.56 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)Cl)NCC1=CC=C(C=C1)OC)C(=O)OCC)=O)F)F | C25H18Cl2F3N3O4
